US08440681B2
To the mixture of 2,4-dichloro-5-(trifluoromethyl)pyrimidine (100 mg, 0.46 mmol) in 0.5 mL of DCE and 0.5 mL of t-BuOH is added zinc chloride (1.0 M in ether, 0.46 mL, 0.46 mmol), and stirred 30 min. 4′-amino-5′-methoxy-N,2′-dimethylbiphenyl-4-carboxamide (111 mg, 0.414 mmol) and triethylamine (46 mg, 0.46 mmol) are added sequentially, and the reaction is stirred at room temperature overnight. The precipitate is filtered, washed by MeOH, and dried in vacuo to afford 4′-(4-Chloro-5-(trifluoromethyl)pyrimidin-2-ylamino)-5′-methoxy-N,2′-dimethylbiphenyl-4-carboxamide as a white solid; ESMS m/z 451.1 (M+H+).

reactant | 2,4-dichloro-5-(trifluoromethyl)pyrimidine | 0.46 mmol, 100 mg | ClC1=NC=C(C(=N1)Cl)C(F)(F)F | C5HCl2F3N2
reactant | 4′-amino-5′-methoxy-N,2′-dimethylbiphenyl-4-carboxamide | 0.414 mmol, 111 mg | NC1=CC(=C(C=C1OC)C1=CC=C(C=C1)C(=O)NC)C | C16H18N2O2
reactant | triethylamine | 0.46 mmol, 46 mg | C(C)N(CC)CC | C6H15N
solvent | DCE | 0.5 mL | ClCCCl | C2H4Cl2
solvent | t-BuOH | 0.5 mL | CC(C)(C)O | C4H10O
catalyst | zinc chloride | 0.46 mmol, 1.0 M, 0.46 mL | [Cl-].[Zn+2].[Cl-]
product | 4′-(4-Chloro-5-(trifluoromethyl)pyrimidin-2-ylamino)-5′-methoxy-N,2′-dimethylbiphenyl-4-carboxamide | ClC1=NC(=NC=C1C(F)(F)F)NC1=CC(=C(C=C1OC)C1=CC=C(C=C1)C(=O)NC)C | C21H18ClF3N4O2
